US04125554
62 g of 3-(p-iodophenyl) propanol was combined in solution with 161 g of hydrobromic acid (48%) and 23 g of thiourea in 100 ml of water and the thiol product vacuum distilled at 114°-117° and 0.1 mm Hg. A 66% yield of 3-(p-iodophenyl) propane thiol was confirmed having a refractive index of n25D = 1.6202.

reactant | 3-(p-iodophenyl) propanol | 62 g | IC1=CC=C(C=C1)CCCO | C9H11IO
reactant | hydrobromic acid | 161 g | Br | BrH
reactant | thiourea | 23 g | NC(=S)N | CH4N2S
solvent | water | 100 ml | O | H2O
product | 3-(p-iodophenyl) propane thiol | 66% yield | IC1=CC=C(C=C1)CCCS | C9H11IS
